US05130050
1) Synthesis of 1-methylheptyl 4-benzyloxybenzoate
To a solution of 4-benzyloxybenzoic acid chloride (1.23 g) in methylene chloride (10 ml) was added slowly under ice cooling a solution of optically active 2-octanol (0.59 g), dimethylaminopyridine (0.55 g) and triethylamine (0.48 g) in methylene chloride (20 ml). The mixture was left to stand until it reached room temperature and was left to stand overnight in order to complete the reaction. The solution was poured in ice water and extracted with methylene chloride. The extracted layer was washed with dilute hydrochloric acid, water, 1N aqueous sodium carbonate solution and water, in this order, and dried over anhydrous magnesium sulfate. After the extract was distilled to remove the solvent until a crude product was obtained, the product was purified by toluene-silica gel column chromatography and further recrystallized from ethanol to obtain the titled compound (1.48 g).

reactant | 4-benzyloxybenzoic acid chloride | 1.23 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
reactant | 2-octanol | 0.59 g | CC(CCCCCC)O | C8H18O
reactant | dimethylaminopyridine | 0.55 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-methylheptyl 4-benzyloxybenzoate | 1.48 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC(CCCCCC)C)C=C1 | C22H28O3
